US07335667B2
Step 4: N-methyl-N-piperidin-3-yl-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine trihydrochloride
A degassed mixture of N-(1-benzylpiperidin-3-yl)-N-methyl-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine (0.17 g, 0.00053 mol) and palladium hydroxide (0.15 g, 0.00011 mol) in ethanol (3.5 mL, 0.060 mol) and 3.0 M of hydrogen chloride in water (0.40 mL) was stirred under an atmosphere of hydrogen over 2.5 days. The reaction mixture was filtered and washed with MeOH. The filtrate was concentrated under vacuum to give 92 mg of orange oil.

reactant | N-(1-benzylpiperidin-3-yl)-N-methyl-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine | 0.00053 mol, 0.17 g | C(C1=CC=CC=C1)N1CC(CCC1)N(C1=C2C(=NC=C1)NC=C2)C | C20H24N4
reactant | ethanol | 0.060 mol, 3.5 mL | C(C)O | C2H6O
reactant | hydrogen chloride | 3.0 M | Cl | ClH
solvent | water | 0.40 mL | O | H2O
catalyst | palladium hydroxide | 0.00011 mol, 0.15 g | [OH-].[Pd+2].[OH-]
product | N-methyl-N-piperidin-3-yl-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine trihydrochloride | 92 mg | Cl.Cl.Cl.CN(C1=C2C(=NC=C1)NC=C2)C2CNCCC2 | InChI=1S/C13H18N4.3ClH/c1-17(10-3-2-6-14-9-10)12-5-8-16-13-11(12)4-7-15-13;;;/h4-5,7-8,10,14H,2-3,6,9H2,1H3,(H,15,16);3*1H
